.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include and2_pex.spice

*------------Inveter for first input and load --------------
.subckt INVX1 A VPWR VGND Y
X0 Y A VPWR VPWR sky130_fd_pr__pfet_01v8 L=0.15 w={PW1} as={AS1} ad={AD1} ps={PS1} pd={PD1}
X1 Y A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

C0 VPWR Y 0.13766f
C1 VPWR A 0.10451f
C2 Y A 0.03664f
C3 Y VGND 0.40665f
C4 VPWR VGND 0.82521f
.ends

.param Cl = 0.5e-15
.param SR = 10e-12

VDD vdd 0 1.8

VIN1 in1 0 PULSE(1.8 0 0 {SR} {SR} 2n 4n)
VIN2 in2 0 DC 1.8

XAND1 in2 in1 vdd 0 out AND2
*XINV1 out VDD 0 load INVX1
Cload out 0 {Cl}

.tran 1ps 10ns

.control
  run

  let p_inst = -v(vdd) * i(VDD)

  meas tran tr_start WHEN v(in1)=1.62 FALL=1
  meas tran tr_end   WHEN v(out)=1.62 RISE=1

 

  meas tran rise_energy INTEG p_inst FROM=tr_start TO=tr_end
  let delta_tr = tr_end - tr_start
  let p_dynamic_rise = rise_energy / delta_tr

  *print tr_start tr_end
  *print rise_energy
  print p_dynamic_rise
------------------------------------------------------------------

  meas tran tf_start WHEN v(in1)=0.18 RISE=1
  meas tran tf_end   WHEN v(out)=1.62 FALL=1

  meas tran fall_energy INTEG p_inst FROM=tf_start TO=tf_end
  let delta_tf = tf_end - tf_start
  let p_dynamic_fall = fall_energy / delta_tf

  *print tf_start tf_end
  *print fall_energy
  print p_dynamic_fall

  plot v(in1) v(out)
  plot i(VDD)
.endc

.end